US08022062B2
7-Chloro-6-[4-(3,3-dimethylbutyryl)-benzylthio]-1,2,4,5-tetrahydro-benzo[d]azepine Hydrochloride
Use a method similar to the Example 428 to react 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine with 1-(4-bromomethylphenyl)-3,3-dimethylbutan-1-one. Use a method similar to the General Procedure 1-4, basic workup, and a method similar to the General Procedure 2-2 to give the title compound as a white solid. MS (APCI+) m/z: 402 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 1-(4-bromomethylphenyl)-3,3-dimethylbutan-1-one | BrCC1=CC=C(C=C1)C(CC(C)(C)C)=O | C13H17BrO
product | 7-Chloro-6-[4-(3,3-dimethylbutyryl)-benzylthio]-1,2,4,5-tetrahydro-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(CC(C)(C)C)=O | InChI=1S/C23H28ClNOS.ClH/c1-23(2,3)14-21(26)18-6-4-16(5-7-18)15-27-22-19-11-13-25-12-10-17(19)8-9-20(22)24;/h4-9,25H,10-15H2,1-3H3;1H
